US06777428B1
A Parr bottle of 220 mL thermostated at 28-29° C. was charged with a suspension of Pd/C 10% (18.2 mg) in methanol (20 mL) followed by 4-(3-nitrobenzoyl)piperidine HCl (1 g 3.69 mmol). The reactor was placed under hydrogen atmosphere(40 PSI). The hydrogenation was complete within 1 hour. The catalyst was removed by filtration and rinsed with methanol (2×5 mL). The filtrate was rota-evaporated and the solid dried under vacuum at 50° C. for 8 hours to give 890 mg (100%) of crude 4-(3-aminobenzoyl)piperidine HCl.

reactant | 4-(3-nitrobenzoyl)piperidine HCl | 3.69 mmol, 1 g | Cl.[N+](=O)([O-])C=1C=C(C(=O)C2CCNCC2)C=CC1
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 18.2 mg | [Pd] | Pd
product | 4-(3-aminobenzoyl)piperidine HCl | 890 mg, 100% | Cl.NC=1C=C(C(=O)C2CCNCC2)C=CC1 | InChI=1S/C12H16N2O.ClH/c13-11-3-1-2-10(8-11)12(15)9-4-6-14-7-5-9;/h1-3,8-9,14H,4-7,13H2;1H
